US06911468B2
(1) Methyl 4-(4′-methoxyphenyl)benzoate
A mixed solution of 4-(4′-hydroxyphenyl)benzoic acid (10.0 g, 4.67 mmol), iodomethane (19.9 g, 14.0 mmol) and N,N-dimethylformamide (80 ml) was stirred at 60° C. for 3 hours. To the obtained mixture was added ethyl acetate (200 ml) and water (150 ml), the mixture was stirred and the organic layer was separated. The organic layer was washed with 5% aqueous potassium hydrogen sulfate and water, and dried over sodium sulfate anhydride. The solvent was concentrated under reduced pressure and the object compound (10.5 g) was obtained from the residue as colorless crystals. Melting point: 177-178° C.

reactant | 4-(4′-hydroxyphenyl)benzoic acid | 4.67 mmol, 10.0 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | iodomethane | 14.0 mmol, 19.9 g | IC | CH3I
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | Methyl 4-(4′-methoxyphenyl)benzoate | 10.5 g | COC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C15H14O3
